data/specific_train_final.csv
"[H:4][C:3]([CH2:5][O:6][OH:7])([C:2](=[CH:8][OH:9])[CH3:1])[O:10][O:11]>>[H:4][C:3]([CH2:5][O:6][OH:7])[C:2](=[CH:8][OH:9])[CH3:1].[O:10][O:11] 3,10-3; 3,10-10",Room Temperature,Initiation,homolyze
"CC(C)(C)O[CH2:10].[O:20][O]>>CC(C)(C)O[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10]1C=CC2(C(C1([O:20][O:21]2)C)O)C>>CC1(C=C[C:10]2(C(C1O)([O:20]2)C)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:5][O:4][O:3][N+:2](=[O:16])[O-:1]>>[CH3:10][CH2:9][CH2:8][CH2:7][CH:6]([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:5][O:4][O:3].[N+:2](=[O:16])[O-:1] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[CH2:10]/[C:11](C)=[CH:12]\CO.[O:20][O]>>[CH2:10]=[C:11]([CH:12]([O:20][O])CO)C 10-10,11;11,12-10,11;11,12-12,20;20-12,20",Room Temperature,Termination,recombine
"C(C([O:20][O:21][O])Cl)Cl>>C(C([O:20])Cl)Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(OCCO)[O:21][O:20][O].[N+](=O)[O-]>>CCCC([O:21])OCCO.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(O)(Cl)Cl)O[O:10]>>[H:20][O:10]OCC(O)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(OC)O[O:20])O.[N:10]=O>>CC(C(OC)O[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:13][CH:12]([C:5]([CH3:16])([C:6]([H:7])([CH2:10][OH:11])[O:8][O:9])[O:4][N+:2](=[O:1])[O-:3])[O:14][H:15]>>[H:13][C:12]([C:5]([CH3:16])([C:6]([H:7])([CH2:10][OH:11])[O:8][O:9][H:15])[O:4][N+:2](=[O:1])[O-:3])[OH:14] 9-9,13;12,13-9,13; 12,13-12",Room Temperature,Propagation,abstraction
"[H:17][O:16][O:15][CH2:14][CH:12]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][N:10]=[O:11])[OH:13]>>[H:17][O:16][O:15][CH2:14][CH:12]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8])[OH:13].[N:10](=[O:11])[O:9] 9,8-8; 8,9-9",Room Temperature,Initiation,homolyze
"C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)[O:20][O:21]N=O>>C/C/1=C/CCC(C2CC(C2CC1)(C)C)(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C([C:10](Cl)Cl)(O)Cl.[O:20][O]>>C([C:10]([O:20][O])(Cl)Cl)(O)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CCO[O:20])O.[N:10]=O>>CC(C)(CCO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)[CH2:10].[O:20][O]>>CCCC(C)[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:20]OCCO.[O:10][O]>>C(CO[CH2:20][O:10][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C(O[O:10])(Cl)Cl)O>>[H:20][O:10]OC(CO)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:20]=[C:21](Cl)Cl.[OH:10]>>[CH2:20]([C:21](Cl)Cl)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(C)(C)OC(=O)CO[O:10]>>[H:20][O:10]OCC(=O)OC(C)(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C=CC2C(C1(OO2)C)O)[O:20][O:21]N=O>>CC1(C=CC2C(C1(OO2)C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOCCOO[O:20][N+:21](=O)[O-]>>CCOCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(CO[O:20])O[N+](=O)[O-].[N:10]=O>>CCCCC(CO[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C(C)O[N+](=O)[O-])[O:20][O:21][O]>>CCCC(C(C)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10](CO)C(COO)O.[O:20][O]>>C[C:10](CO)(C(COO)O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][C:22](C)CO[N+](=O)[O-].[O:10][O]>>[H:20][O:10][O].C[C:22](=[O:21])CO[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"C[C:10]1C=CC(=C(C1O)C)O.[O:20][O]>>CC1=C(C=C[C:10](C1O)(C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:9]1[CH2:8][CH2:7][CH:6]([CH2:11][CH2:10]1)[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH2:9]1[CH2:8][CH2:7][CH:6]([CH2:11][CH2:10]1)[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-3; 3,2-2",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)[C:10]=O.[O:20][O]>>C1=CC=C(C=C1)[C:10](=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1=C(C(C([CH:20]=[C:21]1O)O[N+](=O)[O-])O[O:10])C>>CCC1=C(C2C([CH:20]([C:21]1O)[O:10]O2)O[N+](=O)[O-])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][C:21]1(O)CCCCC1.[OH:10]>>O[C:21]1CCCCC1.[H:20][OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12C=CC(C(C1O)OO2)(C)OO[O:20][N+:21](=O)[O-]>>CC12C=CC(C(C1O)OO2)(C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)(C)OCO[O:20].[N:10]=O>>CC(C)(C)OCO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
